US08258141B2
H1: [1-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-ylcarbamoyl)-piperidin-4-yl]-carbamic acid tert-butyl ester
To a suspension of 4-N-Boc-amino-piperidine (0.396 g, 1.85 mmol) in iso-propanol (5 ml) is added imidazole-1-carboxylic acid (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-amide (50 ml of a 10 mg/ml solution in DCM, 1.85 mmol) and the reaction mixture is stirred at room temperature overnight. The solvent is removed in vacuo and recrystallisation of the solid from methanol yields the title product.

reactant | 4-N-Boc-amino-piperidine | 1.85 mmol, 0.396 g | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | imidazole-1-carboxylic acid (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-amide | N1(CCC(CC1)NC(=O)N1C=NC=C1)C1=NC=CC=C1 | C14H17N5O
solvent | iso-propanol | 5 ml | C(C)(C)O | C3H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [1-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-ylcarbamoyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C(NC1CCN(CC1)C1=NC=CC=C1)=O)=O | C21H33N5O3
